US08293738B2
N-methyl-2-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl)propanamide
A suspension of 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (5.29 g, 27.3 mmol), 2-bromo-N-methylpropanamide (9.05 g, 54.5 mmol) and potassium carbonate (5.65 g, 40.9 mmol) in 136 ml acetone was refluxed for 68 hours. The white suspension was filtered through Celite with acetone washes; and the filtrate was concentrated and purified via silica gel chromatography (80 mm; 1 L 65% ethyl acetate/hexanes to 80% ethyl acetate/hexanes) to afford the title compound.

reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 27.3 mmol, 5.29 g | CC1(OB(OC1(C)C)C=1C=NNC1)C | C9H15BN2O2
reactant | 2-bromo-N-methylpropanamide | 54.5 mmol, 9.05 g | BrC(C(=O)NC)C | C4H8BrNO
reactant | potassium carbonate | 40.9 mmol, 5.65 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 136 ml | CC(=O)C | C3H6O
product | N-methyl-2-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl)propanamide | CNC(C(C)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C)=O | C13H22BN3O3
